US07238808B2
2-[5-(4-Chloro-phenyl)-3-(4-hydroxymethyl-phenylethynyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol
The title compound was prepared from 2-[5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol (example C.13) (78 mg, 0.25 mmol) and 4-bromobenzyl alcohol (47 mg, 0.25 mmol) according to general procedure II. Obtained as a yellow solid (16 mg, 15%). MS (ISP) 418.1 [(M+H)+].

reactant | 2-[5-(4-chloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol | 0.25 mmol, 78 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(C)(C)O)N=CC2C#C | C17H14ClN3O
reactant | 4-bromobenzyl alcohol | 0.25 mmol, 47 mg | BrC1=CC=C(CO)C=C1 | C7H7BrO
product | 2-[5-(4-Chloro-phenyl)-3-(4-hydroxymethyl-phenylethynyl)-pyrazolo[1,5-a]pyrimidin-7-yl]-propan-2-ol | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(C)(C)O)N=CC2C#CC2=CC=C(C=C2)CO | C24H20ClN3O2
